US05109003
Production of 3,7-diethyl-1-(6-hydroxy-6-methylheptyl)-xanthine (Compound 13)
6.2 g of 3,7-diethylxanthine, 4.1 g of ptassium carbonate, and 6.6 g of 1-bromo-6-hydroxy-6-methylheptane are stirred in 100 ml of dimethylformamide at 120° C. for 18 hours. The mixture is filtered hot with suction, the filtrate is concentrated under recuced pressure final recrystallization from diisopropylether with addition of petroleum ether.

reactant | 3,7-diethylxanthine | 6.2 g | C(C)N1C(NC(C=2N(C=NC12)CC)=O)=O | C9H12N4O2
reactant | carbonate | 4.1 g | C([O-])([O-])=O
reactant | 1-bromo-6-hydroxy-6-methylheptane | 6.6 g | BrCCCCCC(C)(C)O | C8H17BrO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,7-diethyl-1-(6-hydroxy-6-methylheptyl)-xanthine | C(C)N1C(N(C(C=2N(C=NC12)CC)=O)CCCCCC(C)(C)O)=O | C17H28N4O3
